US20010046993A1
E. 1-[[1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone
To a stirred solution of N-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-4-chlorobutanamide (664 mg) in dimethylformamide(5.5 ml) was added sodium hydride(60% in oil, 98 mg) at room temperature and the mixture was stirred at 70° C. for 5 hours. After cooling down, water (3 ml) was added and the organic layers were extracted with ethyl acetate (15 ml). The extract was washed with brine (4 ml), dried over magnesium sulfate filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel, 230-400 mesh/20 g/hexane:ethyl acetate=2:1-1:2) to give a yellow oil (408 mg/67%).

reactant | N-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-4-chlorobutanamide | 664 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)CNC(CCCCl)=O | C23H36ClN3O
reactant | sodium hydride | 98 mg | [H-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
product | 1-[[1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)CN1C(CCC1)=O | C23H35N3O
